US05576313
Step 1: Preparation of 3-hydroxymethy-2-methylpyridine
To a suspension of lithium aluminum hydride (2.0 g, 53 mmol) in anhydrous ether (300 ml) was added a solution of methyl-2-methylpyridine carboxylate (8.14 g, 53.8 mmol) in 100 ml anhydrous ether over 20 min. The reaction mixture was stirred 1.5 h at room temp. and the treated carefully in succession with 2 ml of water, 2 ml of 15% aqueous sodium hydroxide, and 6 ml of water. The white slurry was stirred 1 h at room temp. and then filtered through Celite. After several washings with ether, the combined filtrates were washed with brine, dried (MgSO4), and concentrated in vacuo to a pale yellow oil. This material was purified by column chromatography on silica with 5% methanol/chloroform as eluent to afford the product as a colorless oil.

reactant | lithium aluminum hydride | 53 mmol, 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl-2-methylpyridine carboxylate | 53.8 mmol, 8.14 g | COC(=O)C1(NC=CC=C1)C | C8H11NO2
reactant | water | 2 ml | O | H2O
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | water | 6 ml | O | H2O
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
product | 3-hydroxymethy-2-methylpyridine | OCC=1C(=NC=CC1)C | C7H9NO
